Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Verapamil
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of HTN who presented with syncope, headache 
and vomiting. The patient had been in her USOH with the 
exception of some left-sided neck pain for the past week 
(without preceding trauma or manipulation), when today she was 
visiting one of her daughters at a hair salon and suddenly felt 
very warm and unwell. She developed a left-sided headache and 
felt like she was going to pass out. She denies any preceding 
lightheadedness, chest pain, palpitations, shortness of breath, 
tunneled vision, nausea. The patient's daughter took her to the 
bathroom and noticed that her hands were shaky. She sat her down 
on the toilet and the patient lost consciousness, falling 
forwards, caught by her daughter. She did not have a headstrike. 
Daughter reported that she awoke after several seconds and then 
lost consciousness for a second time, at which point her 
daughter laid her down on the floor. She did not have 
incontinence or tongue-biting. After regaining consciousness the 
patient had an episode of vomiting. Her cognition remained 
intact. Her daughter called ___. The patient states that in the 
past she has had several episodes of passing out like this that 
have been evaluated without revealing etiology, attributed to 
poor blood pressure control.  

Of note, she had not been taking her home amlodipine for 2 days 
and was unable to state a reason. She states that she does have 
a blood pressure cuff at home and checks her BPs periodically, 
where they usually run in the 160s-180s.  

In the ED, initial vital signs were: 97.8, ___ 
(subsequently decreased to 162/75 without intervention), 22, 
100% RA  
Exam was notable for no jerking movements observed.  
Labs were notable for ___ of 118, normal CBC and Chem 10 (WBC 9.3 
H/H 11.5/35.0 Plt 267; Na 139 K 3.8 Cl 103 HCO3 22 BUN 19 Cr 
0.9), normal CK and MB, U/A notable for 8 WBC and moderate 
leuks, neg nitrites.  
CT head was negative, CTA neck showed no flow limiting stenosis, 
occlusion, evidence of dissection, or aneurysm. 
EKG showed sinus tachycardia at 100 bpm, LAE, LVH, anterior Q 
waves, no new ischemic changes, consistent with prior.  
The patient was given 10 mg prochlorperazine and 1L NS.  
Neurology was consulted due to concern for seizure or acute 
intracranial process. They noted mild postural tremor of the RUE 
> LUE but no focal neurological process. They thought her 
presentation to be consistent with vasovagal syncope.  
Upon arrival to the floor, the patient denies any symptoms 
including fever, nausea/vomiting, pain. She denies chest pain, 
palpitations, shortness of breath, lightheadedness.

REVIEW OF SYSTEMS: 10-point ROS reviewed and negative except as 
noted per HPI.  
 
Past Medical History:
1. Hypertension
2. Status post left meniscal tear
3. Sickle cell trait with mild anemia
4. History of benign positional vertigo
5. MI ___
6. s/p appy

 
Social History:
___
Family History:
Mother - deceased of stroke in ___, HTN
Father - deceased of lung cancer
No known family history of seizure disorder. 
 
Physical Exam:
===================
ADMISSION EXAM:
===================
VITALS - T 97.5 (ax) BP 174/88 HR 79 R 18 99%RA ___ 115  
GENERAL - Pleasant, well-appearing female in NAD  
HEENT - NC/AT, PERRL, normal conjunctivae  
NECK - Supple  
CARDIAC - RRR S1+S2 no M/R/G  
PULMONARY - CTAB, no wheezes, rales or rhonchi  
ABDOMEN - Soft, nontender, nondistended, no organomegaly or 
masses  
EXTREMITIES - Warm, no edema  
NEUROLOGIC - AAOx3, CN II-XII intact  
PSYCHIATRIC - Affect appropriate  
===================
DISCHARGE EXAM:
===================
VITALS: T 98.5 BP 126/64 (BPs in 120s overnight), HR 73 RR 18 
96% RA
GENERAL: Well-appearing woman lying in bed in NAD  
HEENT: PERRL, EOMI  
CARDIAC: RRR, II/VI systolic murmur best heard over base
PULMONARY: CTAB 
ABDOMEN: BS+, soft, NTND 
EXTREMITIES: Warm, well-perfused, no peripheral edema  
NEUROLOGIC: AOx3, no focal deficits
 
Pertinent Results:
========================
ADMISSION LABS:
========================
___ 04:50PM BLOOD WBC-9.3 RBC-4.49 Hgb-11.5 Hct-35.0 
MCV-78* MCH-25.6* MCHC-32.9 RDW-15.0 RDWSD-41.6 Plt ___
___ 04:50PM BLOOD Neuts-52.5 ___ Monos-7.8 Eos-0.3* 
Baso-0.5 Im ___ AbsNeut-4.86 AbsLymp-3.58 AbsMono-0.72 
AbsEos-0.03* AbsBaso-0.05
___ 04:50PM BLOOD Glucose-156* UreaN-19 Creat-0.9 Na-139 
K-3.8 Cl-103 HCO3-22 AnGap-18
___ 04:50PM BLOOD Calcium-10.3 Phos-2.8 Mg-2.1
========================
PERTINENT RESULTS:
========================
LABS:
========================
___ 04:50PM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:55AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:15PM BLOOD TSH-0.88
___ 05:55AM BLOOD Ferritn-34
___ 05:15PM BLOOD ACTH -11 (___)
========================
IMAGING:
========================
ECG (___): Sinus rhythm. Minor ST segment depression in the 
inferior leads with T wave inversion in the inferior and 
anterolateral precordial leads are suggestive of ischemia. 
Clinical correlation is suggested. Non-diagnostic lateral Q 
wave. Non-specific ST segment changes in the lateral limb leads. 
Q waves in  leads V1-V2, possibly suggest anteroseptal 
myocardial infarction of indeterminate age. Left atrial 
abnormality. Possible left ventricular hypertrophy. Compared to 
the previous tracing of ___ the inferior and lateral ST-T 
wave changes are all new, suggesting ischemia and clinical 
correlation is suggested. 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
60 ___ 440   75 1 -51 
===
Exercise stress test (___):
INTERPRETATION: This ___ yo woman with h/o HTN was referred to 
the lab from the inpatient floor following negative serial 
cardiac enzymes for evaluation of syncope and abnormal EKG. The 
patient exercised for 2.25 minutes of a Modified ___ protocol 
and was stopped for a hypertensive blood pressure response. The 
estimated peak MET capacity was 2.1, which represents a poor 
exercise tolerance for her age. There were no reports of chest, 
back, neck, or arm discomforts, or presyncopal type symptoms. 
There were no significant ST changes noted during exercise or 
recovery. Rhythm was sinus with occasional isolated VPBs, two 
ventricular couplets, and rare isolated APBs. There was an 
appropriate heart rate response during exercise and recovery. 
Resting systolic and diastolic hypertension with an exaggerated 
systolic blood pressure response to exercise. Blood pressure 
decreased initially during recovery before rebounding in late 
recovery (216/86 at 8 min recovery). 
  
IMPRESSION: Exaggerated systolic blood pressure response to a 
limited achieved workload in the absence of anginal or 
presyncopal type symptoms and no ischemic EKG changes. Echo 
report sent separately. 
===
Transthoracic echocardiogram (___):
The patient exercised for 2 minutes and 15 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 131 bpm and a peak blood pressure of 252/100 mmHg. 
The test was stopped because of a hypertensive response. This 
level of exercise represents a poor exercise tolerance for age 
and gender. In response to stress, the ECG showed no ST-T wave 
changes (see exercise report for details). There is resting 
hypertension with an abnormal/hypertensive response to exercise. 


Resting images were acquired at a heart rate of 80 bpm and a 
blood pressure of 166/94 mmHg. These demonstrated symmetric left 
ventricular hypertrophy with normal regional and global left 
ventricular systolic function (biplane LVEF 71%). Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated no aortic stenosis, aortic 
regurgitation or significant mitral regurgitation or resting 
LVOT gradient. The estimated pulmonary artery systolic pressure 
is normal.

Echo images were acquired within 45 seconds after peak stress at 
heart rates of 123 - 100 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
augmentation of right ventricular free wall motion. 

IMPRESSION: Poor functional exercise capacity. No ECG or 2D 
echocardiographic evidence of inducible ischemia to achieved low 
workload. Resting hypertension with hypertensive response to 
exercise.  
===
CT abdomen/pelvis with contrast (___):  
1. No adrenal lesion.
2. Slightly increased in size indeterminate 18 mm hypodense 
lesion in the left kidney, likely hyperdense cyst.  Follow-up 
ultrasound is recommended.
3. 13 mm left ovarian cyst.
 
RECOMMENDATION(S):  
1. Follow-up ultrasound to characterize the left renal lesion. 
2.  ___ year follow-up ultrasound of the left ovarian cyst. 
========================
DISCHARGE LABS:
========================
___ 06:20AM BLOOD WBC-7.3 RBC-4.45 Hgb-11.3 Hct-34.5 
MCV-78* MCH-25.4* MCHC-32.8 RDW-15.0 RDWSD-41.8 Plt ___
___ 06:20AM BLOOD Glucose-119* UreaN-15 Creat-0.8 Na-139 
K-3.4 Cl-101 HCO3-30 AnGap-11
___ 06:20AM BLOOD Calcium-9.9 Phos-4.5 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is ___ y/o woman with longstanding history of 
paroxysmal hypertension who presented with syncope and 
hypertensive urgency.

====================
ACTIVE ISSUES:
====================
# Syncope: The patient presented after a witnessed syncopal 
episode. Head imaging was negative for intracranial process. ECG 
showed possible new ST/TW changes; troponins were negativex2. An 
exercise stress echocardiogram was attempted, but was aborted 
two minutes into the ___ protocol due to systolic blood 
pressures in the 250s. The patient was asymptomatic, and had no 
ischemic changes on ECG. Echocardiogram showed left ventricular 
hypertrophy and LVEF of 70%. Ultimately, it was thought that the 
patient's syncope was either vasovagal or related to the 
patient's paroxysmal hypertension, as below.

# Hypertensive urgency: On admission, the patient was found to 
have a BP of 200/110. As above, the patient had severe 
hypertension during exercise stress testing. Of note, the 
patient had a similar event in ___ during an exercise stress 
test, with SBPs noted to be in the 260s during the test. The 
patient has undergone extensive prior evaluation for secondary 
causes of hypertension that has been largely unrevealing. The 
patient did at one point have elevated plasma metanephrines, 
thought to be falsely elevated in the setting of stress. We 
repeated urine metanephrines, plasma metanephrines, renin, 
aldosterone, ACTH, the results of which were pending at 
discharge. CT abdomen/pelvis was negative for adrenal mass. The 
patient was restarted on chlorthalidone 25 mg daily, in addition 
to her home amlodipine 10 mg daily. Her resting systolic blood 
pressures were in the 120s on day of discharge. The patient was 
advised to refrain from strenuous activity.

# Anemia: Patient with stable microcytic anemia and HbS trait. 
Ferritin 34. Patient may benefit from outpatient colonoscopy, 
which she has repeatedly declined in the past.  Recommendations 
for colonoscopy were communicated to the patient during this 
hospitalization again.

==========================
TRANSITIONAL ISSUES:
==========================
- Patient will follow up with PCP and ___
- Urine metanephrines, plasma metanephrines, renin, aldosterone, 
ACTH pending at discharge.
- Patient restarted on chlorthalidone. Please check BP and 
electrolytes and as adjust antihypertensive regimen as 
appropriate.
- Please help patient arrange for ambulatory blood pressure 
monitoring.
- Advised patient to abstain from strenuous activity until 
follow up with PCP.
- Patient with known HbS trait and stable normocytic anemia. 
Recommend colonoscopy as outpatient. 
- CT abdomen/pelvis revealed an incidental lesion of the left 
kidney, likely a hyperdense cyst. Recommend follow up 
ultrasound.
- CT also revealed a 13 mm left ovarian cyst. Recommend ___ 
follow up ultrasound. 
- Communication: ___ (daughter) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
===========
Syncope
Hypertensive urgency

SECONDARY:
===========
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You came to the hospital 
because you fainted, and we found that your blood pressures were 
very high. You attempted to do a stress test for your heart, but 
your blood pressure was too high to complete the test. We took a 
picture of your abdomen that did not show anything that would 
explain your high blood pressures. We also sent some labs to 
look for other causes of your blood pressure; these tests take 
several days to come back and your regular doctor ___ let you 
know the results.

We added a second blood pressure medication, chlorthalidone, 
with good control of your blood pressure. It is very important 
that you take this medication everyday to prevent stroke and 
heart disease. Please continue to measure your blood pressure 
everyday and contact your primary care physician if your 
systolic BP>180.

We wish you the best of health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___